US08563717B2
Intermediate 101: 6-(4-Pyridinyl)-5-hexyn-1-ol
4-bromopyridine hydrochloride (5 g, 25.7 mmol) was partitioned between sodium hydroxide (20 ml, 40.0 mmol) and ethylacetate (3×100 ml). The organic layer was separated, dried over Na2SO4 and evaporated in vacuo. The resulting oil was dissolved in triethylamine (10 ml) and degassed under nitrogen. 5-Hexyn-1-ol, (2.8 ml, 25.8 mmol) was added followed by bis(triphenylphosphine)palladium (II) chloride, (200 mg, 0.285 mmol) and copper(I)iodide (100 mg, 0.525 mmol) and the resulting mixture was stirred and heated under reflux for 20 mins. when a dark brown sludge was obtained. The mixture was cooled to rt and partitioned between EtOAc (200 ml) and water (50 ml). The aqueous phase was extracted with EtOAc (2×100 ml), combined the organic extracts, dried (Na2SO4), filtered and evaporated in vacuo. The resulting dark brown gum was purified by column chromatography, the sample was loaded onto silica (100 g) in dichloromethane and eluted using a gradient of 0-100% ethyl acetate in cyclohexane over 60 mins. The appropriate fractions were combined and evaporated in vacuo to give the title compound as a yellow oil (2.36 g). LCMS (System D): tRET=1.85 min; MH+ 176

reactant | 4-bromopyridine hydrochloride | 25.7 mmol, 5 g | Cl.BrC1=CC=NC=C1
reactant | sodium hydroxide | 40.0 mmol, 20 ml | [OH-].[Na+]
reactant | 5-Hexyn-1-ol | 25.8 mmol, 2.8 ml | C(CCCC#C)O | C6H10O
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.285 mmol, 200 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I)iodide | 0.525 mmol, 100 mg | [Cu]I
solvent | ethylacetate | 100 ml | C(C)OC(C)=O | C4H8O2
product | 6-(4-Pyridinyl)-5-hexyn-1-ol | 2.36 g | N1=CC=C(C=C1)C#CCCCCO | C11H13NO
